US04321194
reaction of 2-bromo-3-n-pentylaminopropionitrile hydrochloride (prepared by reacting 2,3-dibromopropionitrile with n-pentylamine; m.p. 133°-135° C.) with triethanolamine gives 2-cyano-n-pentylaziridine; b.p.0.3 : 50°-52° C.; yield 43% of theory;

reactant | 2-bromo-3-n-pentylaminopropionitrile hydrochloride | Cl.BrC(C#N)CNCCCCC
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | 2-cyano-n-pentylaziridine | yield 43% | C(#N)C(CN1CC1)CCC | C8H14N2
